US06380230B1
A) 5-Nitro-2-indolecarboxylic acid
13 g of ethyl 5-nitro-2-indolecarboxylate are placed in 200 ml of EtOH and the solution is treated for 12 hours with 15 g of 30% NaOH solution. After evaporation of the solvent, the residue is acidified with concentrated HCl and then filtered to give 10.8 g of the expected compound.

reactant | ethyl 5-nitro-2-indolecarboxylate | 13 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10N2O4
reactant | NaOH | 15 g | [OH-].[Na+]
solvent | EtOH | 200 ml | CCO | C2H6O
product | 5-Nitro-2-indolecarboxylic acid | 10.8 g | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
